* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 47k
R2 N003 N002 47k
R3 N003 N001 47k
R4 N001 0 47k
R5 N002 0 12k
I1 0 N003 10

.end