* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 47k
R2 N003 N002 22
R3 N003 N001 3.9
R4 N001 0 3.9
R5 N002 0 680k
I1 0 N003 0.005

.end